US08044070B2
1) Production of 2-(1-t-butoxycabonylpiperidin-4-yloxy)-5-bromopyrazine
Cesium carbonate (372 mg) was added to a DMF solution (2 ml) of 2-bromo-5-hydroxypyrazine (100 mg) and 1-t-butoxycarbonyl-4-(methanesulfonyloxy)piperidine (192 mg), and stirred at 90° C. for 14 hours. The reaction mixture was cooled to room temperature, water was added thereto and extracted with ethyl acetate. The organic layer was washed with saturated saline solution, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified through silica gel column chromatography (C-300, hexane:ethyl acetate=1:11) to obtain the entitled compound (198 mg).

reactant | Cesium carbonate | 372 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | 2-bromo-5-hydroxypyrazine | 100 mg | BrC1=NC=C(N=C1)O | C4H3BrN2O
reactant | 1-t-butoxycarbonyl-4-(methanesulfonyloxy)piperidine | 192 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C | C11H21NO5S
solvent | water | O | H2O
product | 2-(1-t-butoxycabonylpiperidin-4-yloxy)-5-bromopyrazine | 198 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(N=C1)Br | C14H20BrN3O3
